US06562811B1
To a cold (0° C.) solution of 3-benzyloxypicolinonitrile (2.50 g, 11.9 mmmol) in tetrahydrofuran (100 mL) was added dropwise 0.92M methyl magnesium bromide in tetrahydrofuran (150 mL, 138 mmol). The mixture was stirred at 0° C. for 30 minutes and then at room temperature for 4 hrs. The reaction mixture was poured into water (2000 mL) and acidified with 10% sulfuric acid (500 mL). After being stirred for 30 min, the reaction mixture was poured into saturate aqueous NaHCO3 solution slowly and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, filtrated, and evaporated. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane=1/3) to give 1-(2-benzyloxy-phenyl)-ethanone as a colorless oil (2.49 g, yield; 92%).

reactant | 3-benzyloxypicolinonitrile | 2.50 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C#N | C13H10N2O
reactant | methyl magnesium bromide | 0.92M | C[Mg]Br
reactant | water | 2000 mL | O | H2O
reactant | sulfuric acid | 500 mL | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 138 mmol, 150 mL | O1CCCC1 | C4H8O
product | 1-(2-benzyloxy-phenyl)-ethanone | 2.49 g, yield; 92% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C)=O | C15H14O2
